US06891044B2
3-1H-Benzoimidazol-2-yl-6-(3-hydroxyphenyl)-1H-indazole
Example 24(o) was prepared in a similar manner to that described for Example 24(f), except that 6-(3-methoxy-phenyl)-3-1H-benzoimidazol-2-yl-1H-indazole, prepared in a similar manner to that described for example 24(a) except that 3-methoxy-phenylboronic acid was used instead of 5-methoxy-2-methyl-4-[2-(trimethylsilanyl)-ethoxymethoxy]-phenylbororic acid in step (viii), was used instead of 6-(2-methoxy-4-hydroxyphenyl)-31H-benzoimidazol-2-yl-1H-indazole. 1H NMR (300 MHz, DMSO-d6) δ 13.67 (s, 1H), 13.00 (s, 1H), 9.58 (s, 1H), 8.55 (d, 1H, J=8.4 Hz), 7.71-7.75 (m, 2H), 7.49-7.57 (m, 2H), 7.30 (t, 1H, J=7.8 Hz), 7.12-7.24 (m, 4H), 6.80 (dd, 1H, J=8.1, 1.5 Hz). MS (ES) [m+H]/z calc'd 327, found 327; [m−H]/z calc'd 325, found 325.

reactant | 6-(3-methoxy-phenyl)-3-1H-benzoimidazol-2-yl-1H-indazole | COC=1C=C(C=CC1)C1=CC=C2C(=NNC2=C1)C1=NC2=C(N1)C=CC=C2 | C21H16N4O
reactant | 3-methoxy-phenylboronic acid | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 3-1H-Benzoimidazol-2-yl-6-(3-hydroxyphenyl)-1H-indazole | N1C(=NC2=C1C=CC=C2)C2=NNC1=CC(=CC=C21)C2=CC(=CC=C2)O | C20H14N4O
